US04333730
Preparation of 2-acetylamino-4-nitrophenyl γ-aminopropyl ether
0.03 mol (11.5 g) of 2-acetylamino-4-nitrophenyl γ-phthalimidopropyl ether and 3 cm3 of 98% pure hydrazine hydrate in 120 cm3 of normal propyl alcohol are heated for 15 minutes on a boiling waterbath. After hot filtration, the filtrate is cooled to 0° C. The expected product precipitates. It is taken up in a dilute solution of sodium hydroxide, and the sodium hydroxide phase is extracted with chloroform. By concentrating the solvent in vacuo, the expected product, which melts at 110°-120° C., is obtained.

reactant | 2-acetylamino-4-nitrophenyl γ-phthalimidopropyl ether | 0.03 mol, 11.5 g | C1(C=2C(C(N1CCCOC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O)=O)=CC=CC2)=O | C19H17N3O6
reactant | hydrazine hydrate | 3 cm3 | O.NN
solvent | normal propyl alcohol | 120 cm3 | C(CC)O | C3H8O
product | 2-acetylamino-4-nitrophenyl γ-aminopropyl ether | NCCCOC1=C(C=C(C=C1)[N+](=O)[O-])NC(C)=O | C11H15N3O4
